US07259177B2
tert-Butyl 4-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexyl]butanoate
2.4 g of tert-butyl 4-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexyl]but-2-enoate are dissolved in 35 ml of methanol, and 200 mg of PD (10% on activated carbon) are added. At room temperature, the mixture is stirred under an atmosphere of hydrogen for 7 hours. The catalyst is filtered off through Celite and the filtrate is concentrated under reduced pressure. This gives 2.3 g of tert-butyl 4-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexyl]-butanoate as an oil. C30H44O3Si (480.75), MS(ESI): 481 (M+H+).

reactant | tert-butyl 4-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexyl]but-2-enoate | 2.4 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H](CCC1)CC=CC(=O)OC(C)(C)C | C30H42O3Si
solvent | methanol | 35 ml | CO | CH4O
product | tert-Butyl 4-[cis-3-(tert-butyldiphenylsilanyloxy)cyclohexyl]butanoate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H](CCC1)CCCC(=O)OC(C)(C)C | C30H44O3Si
